US07495103B2
A suspension of 2-tert-butyl-5-nitrobenzenamine (0.971 g, 5 mmol) in conc. HCl (5 mL) was cooled to 5-10° C. and a solution of NaNO2 (0.433 g, 6.3 mmol) in H2O (0.83 mL) was added dropwise. Stirring was continued for 0.5 h, after which the mixture was vacuum filtered. The filtrate was added, simultaneously with a solution of Na2SO3 (1.57 g, 12.4 mmol) in H2O (2.7 mL), to a stirred solution of CuSO4 (0.190 g, 0.76 mmol) and Na2SO3 (1.57 g, 12.4 mmol) in HCl (11.7 mL) and H2O (2.7 mL) at 3-5° C. Stirring was continued for 0.5 h and the resulting precipitate was filtered off, washed with water and dried to give 2-tert-butyl-5-nitrobenzene-1-sulfonyl chloride (0.235 g, 17%). 1H NMR (400 MHz, DMSO-d6) δ 9.13 (d, J=2.5 Hz, 1H), 8.36 (dd, J=8.9, 2.5 Hz, 1H), 7.88 (d, J=8.9 Hz, 1H), 1.59 (s, 9H).

reactant | 2-tert-butyl-5-nitrobenzenamine | 5 mmol, 0.971 g | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])N | C10H14N2O2
reactant | NaNO2 | 6.3 mmol, 0.433 g | N(=O)[O-].[Na+]
reactant | Na2SO3 | 12.4 mmol, 1.57 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | Na2SO3 | 12.4 mmol, 1.57 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | HCl | 5 mL | Cl | ClH
reactant | HCl | 11.7 mL | Cl | ClH
solvent | H2O | 0.83 mL | O | H2O
solvent | H2O | 2.7 mL | O | H2O
solvent | H2O | 2.7 mL | O | H2O
catalyst | CuSO4 | 0.76 mmol, 0.190 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-tert-butyl-5-nitrobenzene-1-sulfonyl chloride | 0.235 g, 17% | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C10H12ClNO4S
